US04419352
(c) 10-Chloro-1-oxo-1H-pyrano[3,2-f]quinoline-3,8-dicarboxylic acid
Ethyl methyl 10-chloro-1-oxo-1H-pyrano[3,2-f]quinoline-3,8-dicarboxylate (300 mg; 0.83 mmole) in methanol (30 ml) was heated under reflux during the dropwise addition of M/10 aqueous sodium hydroxide (16.6 ml; 1.66 mmole) with stirring over 1.5 hrs. After the addition the mixture was heated under reflux for a further 2 hrs when it was cooled and poured into dilute aqueous hydrochloric acid. The brown solid was filtered off and dried in a vacuum oven over sodium hydroxide pellets. This gave analytically pure title compound 210 mg (79%) (decomp. 253°). NNMR (d6DMSO) δ, 8.48, 8.13 (AB quartet, J=9H); δ, 8.33 (s,1H), 7.2 (s, 1H).

reactant | Ethyl methyl 10-chloro-1-oxo-1H-pyrano[3,2-f]quinoline-3,8-dicarboxylate | 0.83 mmole, 300 mg | ClC1=CC(=NC2=CC=C3C(=C12)C(C=C(O3)C(=O)OCC)=O)C(=O)OC | C17H12ClNO6
reactant | sodium hydroxide | 1.66 mmole, 16.6 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | 10-Chloro-1-oxo-1H-pyrano[3,2-f]quinoline-3,8-dicarboxylic acid | 210 mg, 79% | ClC1=CC(=NC2=CC=C3C(=C12)C(C=C(O3)C(=O)O)=O)C(=O)O | C14H6ClNO6
